US04038392
Methyl 3-[(2-pyridyl)-sulfonylmethyl]-2-quinoxalinecarboxylate- 1,4-dioxide
Methyl 3-[(2-pyridyl)-thiomethyl]-2-quinoxalinecarboxylate-1,4-dioxide (0.03 moles) in 60 ml of acetone was cooled to 0°-5° C. and 50 ml of 2N H2SO4 was added in one portion. This was followed by the dropwise addition of a solution of KMnO4 (0.04 moles) in 150 ml of water over a 20 minute period. The mixture was stirred for about 5 minutes at which time 4 ml of 30% H2O2 was added very carefully dropwise to decolorize the purple solution. The desired product, which had precipitated, was collected by filtration and washed with water. Yield, 8.12 grams (87%); m.p. 154° C. (dec.).

reactant | Methyl 3-[(2-pyridyl)-thiomethyl]-2-quinoxalinecarboxylate-1,4-dioxide | 0.03 moles | N1=C(C=CC=C1)SCC1=C([N+](=C2C=CC=CC2=[N+]1[O-])[O-])C(=O)OC | C16H13N3O4S
reactant | H2SO4 | 2N, 50 ml | OS(=O)(=O)O | H2O4S
reactant | KMnO4 | 0.04 moles | [O-][Mn](=O)(=O)=O.[K+]
reactant | H2O2 | 4 ml | OO | H2O2
reactant | water | 150 ml | O | H2O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | Methyl 3-[(2-pyridyl)-sulfonylmethyl]-2-quinoxalinecarboxylate- 1,4-dioxide | N1=C(C=CC=C1)S(=O)(=O)CC1=C([N+](=C2C=CC=CC2=[N+]1[O-])[O-])C(=O)OC | C16H13N3O6S
